US08648066B2
To a solution of 4-(4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)benzoyl chloride (30.0 mg, 62 μmol) in THF (5 mL) was added drop wise 40% aqueous methylamine (0.25 mL, 2.0 mmol) at 0° C. The reaction mixture was stirred at room temperature for 1 h, at which time it was concentrated. The resulting solid was dissolved in chloroform (30 mL), washed with water (20 mL), and dried over sodium sulfate then filtered. To the solution was then added drop wise 4N hydrogen chloride in dioxane (0.25 mL) and the mixture concentrated. The residue was taken up in 4:1 water and acetonitrile (2 mL) and lyophilized to give 4-(4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-N-methylbenzamide hydrochloride salt (16.5 mg, 53% yield) as a white powder. 1H NMR (400 MHZ, DMSO-d6): 8.79 (s, 1H), 8.53 (dd, 1H), 7.97 (d, 2H), 7.65 (d, 2H), 7.57 (d, 1H), 7.30-7.13 (m, 5H), 6.97 (d, 1H), 4.92 (s, 1H), 4.35 (br 2H), 4.04-3.97 (m, 4H), 3.83 (d, 3H), 2.24 (s, 3H); MS (EI) for C29H27FN4O2: 483 (MH+).

reactant | 4-(4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)benzoyl chloride | 62 μmol, 30.0 mg | FC1=CC=C(C=C1)CC=1C(=NC=NC1C)N1CCOC2=C(C1)C=C(C=C2)C2=CC=C(C(=O)Cl)C=C2 | C28H23ClFN3O2
reactant | methylamine | 2.0 mmol, 0.25 mL | CN | CH5N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-(4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-N-methylbenzamide hydrochloride salt | 16.5 mg, 53% yield | Cl.FC1=CC=C(C=C1)CC=1C(=NC=NC1C)N1CCOC2=C(C1)C=C(C=C2)C2=CC=C(C(=O)NC)C=C2 | InChI=1S/C29H27FN4O2.ClH/c1-19-26(15-20-3-10-25(30)11-4-20)28(33-18-32-19)34-13-14-36-27-12-9-23(16-24(27)17-34)21-5-7-22(8-6-21)29(35)31-2;/h3-12,16,18H,13-15,17H2,1-2H3,(H,31,35);1H
